US05350748
A suspension of 3-(1-methylethoxy)-5-phenyl-2-benzofurancarboxylic acid (173 mg, 0.58 mmol) and 1,1'-carbonyldiimidazole (116 mg, 0.72 mmol) in 10 mL of tetrahydrofuran is heated at reflux for 2 hours. The reaction solution is cooled to room temperature and aqueous ammonium hydroxide (1 mL) is added and the reaction mixture is stirred at room temperature for 30 minutes. The reaction is diluted with ethyl acetate and washed with brine. The organic phase is dried over magnesium sulfate, filtered, and concentrated in vacuo. Chromatography eluting with ethyl acetate:hexane (1:1) provides 3-(1-methylethoxy)-5-phenyl-2-benzofurancarboxamide in 94% yield; mp=192°-130° C.

reactant | 3-(1-methylethoxy)-5-phenyl-2-benzofurancarboxylic acid | 0.58 mmol, 173 mg | CC(C)OC1=C(OC2=C1C=C(C=C2)C2=CC=CC=C2)C(=O)O | C18H16O4
reactant | 1,1'-carbonyldiimidazole | 0.72 mmol, 116 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonium hydroxide | 1 mL | [OH-].[NH4+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(1-methylethoxy)-5-phenyl-2-benzofurancarboxamide | 94% yield | CC(C)OC1=C(OC2=C1C=C(C=C2)C2=CC=CC=C2)C(=O)N | C18H17NO3
